US07932279B2
2′,4′-Dihydroxy-5′-[1-(3-methoxy propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid [2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amide (68)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid and 2-(2-aminoethyl)-1-methylpyrrolidine as described in general procedure D. LCMS: 481 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
reactant | 2-(2-aminoethyl)-1-methylpyrrolidine | NCCC1N(CCC1)C | C7H16N2
product | 2′,4′-Dihydroxy-5′-[1-(3-methoxy propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid [2-(1-methyl-pyrrolidin-2-yl)-ethyl]-amide | CN1C(CCC1)CCNC(=O)C=1C=C(C=CC1)C1=C(C=C(C(=C1)C1=NN=NN1CCCOC)O)O | C25H32N6O4
